US03989694
7-amino-3-(4-carbamoyl-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
Reaction of 4-carbamoyl-1,2,3-triazole-5-thiol sodium salt and 7-aminocephalosporanic acid as described hereinabove gives the title compound.

reactant | 4-carbamoyl-1,2,3-triazole-5-thiol sodium salt | [Na].C(N)(=O)C=1N=NNC1S
reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
product | 7-amino-3-(4-carbamoyl-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=C(N=NN2)C(N)=O)C(=O)O)C1=O | C11H12N6O4S2
